OPMODEL1.CIR - OPAMP MODEL SINGLE-POLE
*-----------------------------------------------------------------------------
*Observatios
*-----------------------------------------------------------------------------
*How does the DC gain (Aol) affect closed-loop gain accuracy?
*https://toshiba.semicon-storage.com/ap-en/semiconductor/knowledge/faq/linear_opamp/what-are-open-loop-and-closed-loop-gains-of-an-op-amp.html
*https://www.analog.com/media/en/training-seminars/tutorials/MT-033.pdf
*https://electronics.stackexchange.com/questions/671013/why-is-open-loop-gain-important-in-an-op-amp
*This gain is flat from dc to what is referred to as the dominant pole corner
*frequency. From there the gain falls off at 6 dB/octave (20 dB/decade)
*An op-amp with a large open-loop gain offers high precision when used as an inverting amplifier.
*When the closed-loop gain of an op amp circuit is related to the loop gain, as it is in voltage-feedback op amps, the closed-loop gain can be used to stabilize the circuit.

*-----------------------------------------------------------------------------
*Funtions
*-----------------------------------------------------------------------------
.func dB_to_Av(dB)	{10**(db/20)}
*-----------------------------------------------------------------------------
*Circuit
*-----------------------------------------------------------------------------
*Vxxx n+ n- PWL(t1 v1 t2 v2 t3 v3...)
VS	1	0	AC	{p_Vac}  PWL({p_t1} {p_v1} {p_t2} {p_v2}) 	; Piece-wise linear voltage source

*Open loop
*XOP	1	0	3	OPAMP1
*RL	3	0		{p_rl}

*Close loop
R1		2   0 		{p_r1}
R2    	2   3		{p_r2}
XOP   	1 	2   3 	OPAMP1
RL		3	0		{p_rl}

*-----------------------------------------------------------------------------
*Parameters
*-----------------------------------------------------------------------------
.param p_Vac 	1
.param p_t1 	0us
.param p_v1 	0
.param p_t2 	0.01us
.param p_v2 	1
.param p_rl 	1k

*Close loop
.param p_r1 	10k
.param p_r2 	10k
*-----------------------------------------------------------------------------
*Subcircuit
*-----------------------------------------------------------------------------
.include sub_basic_op_model.lib
*-----------------------------------------------------------------------------
*Mearurements
*-----------------------------------------------------------------------------
.include OPAMP_BASIC.meas
*-----------------------------------------------------------------------------
* ANALYSIS
*-----------------------------------------------------------------------------
*In 1k affect the value of output, but in 10k decreases rise speed
*.step param	p_Egain list 100k 10k 1k 100 10
*.TRAN 	0.05US  5US
.AC	DEC	10 1 500MEG
*.PLOT	TRAN VM(1) VM(3)
.PROBE
.END
